US06387903B1
Step A: Preparation of 4-bromo-2-(trifluoromethoxy) benzonitrile
To a solution of 4-bromo-2-(trifluoromethoxy)iodobenzene (25 g, 68 mmol) and zinc(II) cyanide (4.0 g, 34 mmol) in 150 mL of degassed dimethylformamide was added tetrakis(triphenylphosphine)palladium (3.1 g, 4 mole %). The solution was stirred at 80 ° C. for one hour, then cooled to room temperature. Additional portions of zinc(II) cyanide (800 mg) and tetrakis(triphenylphosphine)palladium (700 mg) were added, and the solution was heated at 80° C. for 3 hours. The mixture was diluted with EtOAc and extracted with saturated NaHCO3 solution and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel column chromatography (0-5% ether/hexane) gave the titled product.

reactant | 4-bromo-2-(trifluoromethoxy)iodobenzene | 68 mmol, 25 g | BrC1=CC(=C(C=C1)I)OC(F)(F)F | C7H3BrF3IO
reactant | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc(II) cyanide | 34 mmol, 4.0 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 3.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc(II) cyanide | 800 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 700 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-bromo-2-(trifluoromethoxy) benzonitrile | BrC1=CC(=C(C#N)C=C1)OC(F)(F)F | C8H3BrF3NO
